US06306840B1
A solution of 2,2-dimethyl-4-keto-1,3-benzoxazine (1.77 g, 10.0 mmol) and PCl5 (2.09 g, 10.0 mmol) in POCl3 (3.0 mL) was stirred at RT for 1 h then at 50-60° C. for 2 h. The reaction was concentrated and the product distilled (90-95° C./2-3 mm Hg) to afford 4-chloro-2,2-dimethyl-3H-1,3-benzoxazine. (0.496 g, 25%) as a clear oil: 1H NMR (CDCl3, 300 MHz, ppm) 7.58 (d, 1H), 7.48 (m, 1H), 6.97 (m, 1H), 6.94 (d, 1H), 1.63 (s, 6H).

reactant | 2,2-dimethyl-4-keto-1,3-benzoxazine | 10.0 mmol, 1.77 g | CC1(OC2=C(C(N1)=O)C=CC=C2)C | C10H11NO2
reactant | PCl5 | 10.0 mmol, 2.09 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | POCl3 | 3.0 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2,2-dimethyl-3H-1,3-benzoxazine | ClC1NC(OC2=C1C=CC=C2)(C)C | C10H12ClNO
